US04104182
0.14 mole of triphenylchloromethane and 0.14 mole of N-hydroxy tetrapropenylsuccinimide are dissolved in 100 milliliters of dimethylformamide. 50 milliliters of triethylamine are added and the mixture is stirred overnight at room temperature. The solvent is then removed under vacuum and the reaction product is water washed until salt free and then dried. A yield of 90% of N-trityloxy tetrapropenylsuccinimide is recovered.

reactant | triphenylchloromethane | 0.14 mole | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | N-hydroxy tetrapropenylsuccinimide | 0.14 mole | ON1C(C(C(C1=O)(C=CC)C=CC)(C=CC)C=CC)=O | C16H21NO3
reactant | triethylamine | 50 milliliters | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 milliliters | CN(C=O)C | C3H7NO
product | N-trityloxy tetrapropenylsuccinimide | yield of 90% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ON1C(C(C(C1=O)(C=CC)C=CC)(C=CC)C=CC)=O | C35H35NO3
